US08729089B2
4-{[6-(4-Fluoro-phenyl)-4-(2,2,2-trifluoro-ethylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-N,N-dimethyl-benzamide (Example 242)
[2-Chloro-6-(4-fluoro-phenyl)-pyrido[3,2-d]pyrimidin-4-yl]-(2,2,2-trifluoroethyl)-amine (100 mg, 0.28 mmol), 4-aminomethyl-N,N-dimethyl-benzamide (100 mg, 0.56 mmol) and diisopropylethylamine (0.097 mL, 0.56 mmol) were suspended in NMP (1.5 mL), sealed and heated by microwave to 140 deg C. for 1 h. After cooling the reaction mixture was added dropwise to a stirring mixture of water/acetonitrile (8 mL, 3:1) to afford a yellow precipitate. The solid was filtered, washed with water, dissolved in hot dioxane and concentrated onto silica gel. Purification by flash chromatography (0-10%, EtOH (containing 11% saturated aqueous ammonium hydroxide) in dichloromethane) to afford 21 mg (15%) of the desired product as a white solid. MS (m/z) 499.3 [M+H]+.

reactant | [2-Chloro-6-(4-fluoro-phenyl)-pyrido[3,2-d]pyrimidin-4-yl]-(2,2,2-trifluoroethyl)-amine | 0.28 mmol, 100 mg | ClC=1N=C(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)NCC(F)(F)F | C15H9ClF4N4
reactant | 4-aminomethyl-N,N-dimethyl-benzamide | 0.56 mmol, 100 mg | NCC1=CC=C(C(=O)N(C)C)C=C1 | C10H14N2O
reactant | diisopropylethylamine | 0.56 mmol, 0.097 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water acetonitrile | 8 mL | O.C(C)#N
solvent | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
product | 4-{[6-(4-Fluoro-phenyl)-4-(2,2,2-trifluoro-ethylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-N,N-dimethyl-benzamide | 21 mg, 15% | FC1=CC=C(C=C1)C=1C=CC=2N=C(N=C(C2N1)NCC(F)(F)F)NCC1=CC=C(C(=O)N(C)C)C=C1 | C25H22F4N6O
